US06432993B1
t-Butyl N-[2-amino-5-(4-hydroxyphenylthio)phenyl]-N-methylcarbamate
In a similar manner to that described in Reference Example 7, a reaction was carried out using t-butyl N-[5-(4-hydroxyphenylthio)-2-nitrophenyl]-N-methylcarbamate (2.84 g), palladium on carbon (10%, 1.52 g) and methanol (50 ml) and the reaction mixture was purified to give the title compound (2.37 g).

reactant | t-butyl N-[5-(4-hydroxyphenylthio)-2-nitrophenyl]-N-methylcarbamate | 2.84 g | OC1=CC=C(C=C1)SC=1C=CC(=C(C1)N(C(OC(C)(C)C)=O)C)[N+](=O)[O-] | C18H20N2O5S
catalyst | palladium on carbon | 1.52 g | [Pd] | Pd
solvent | methanol | 50 ml | CO | CH4O
product | t-Butyl N-[2-amino-5-(4-hydroxyphenylthio)phenyl]-N-methylcarbamate | 2.37 g | NC1=C(C=C(C=C1)SC1=CC=C(C=C1)O)N(C(OC(C)(C)C)=O)C | C18H22N2O3S
